* AD628 SPICE Macro-model
* Description: Amplifier
* Generic Desc: High CM Voltage Programmable Gain Diff Amp
* Developed by: Scott Hunt
* 
* Revision History:
* 1.0(12/2013) - SH
* 
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
*
* BEGIN Notes:
*
* Not Modeled:
*   Temperature effects
*
* Parameters modeled include:
*   Vos
*   Gain error
*   Noise
*   CMRR
*   PSRR
*   Output range
*   Input range 
*   Supply current
*   Slew rate
*   Gain/phase
*   Bandwidth
*   Output current limit
*   Output current reflected in supplies
*
* Supply range:
*    Single Supply: 4.5V to 36V
*    Dual Supplies: +/-2.25V to +/-18V
*
* Max CMV is the least of 120V or 11*(+VS - 1.2V) - 10*VREF
* Min CMV is the greater of -120V or 11*(-VS + 1.2V) - 10*VREF
*
* Typical Specifications used in Model
*
* END Notes
*
* Node Assignments
*              Non-inverting input
*               |   Negative supply
*               |    |   Reference voltage input
*               |    |    |     Filter Cap Connection
*               |    |    |      |    Amplifier output
*               |    |    |      |     |   Output amplifier inverting input
*               |    |    |      |     |   |    Positive supply
*               |    |    |      |     |   |    |    Inverting input
*               |    |    |      |     |   |    |    |
.subckt AD628  +IN  -VS  VREF  CFILT  OUT  RG  +VS  -IN

****Gain = 0.1 Difference Amplifier Stage

***Resistors
R62 -IN 2 RNoise 100e3
R63 +IN 1 RNoise 100e3
R65 2 4 RNoise 9.999e3
R61 1 VREF RNoise 9.999e3

***A1 Differential Stage
Q1 13 12 14 0 npn
Q2 17 2 16 0 npn
RC1 98 13 Rideal 3.6E+03
RC2 98 17 Rideal 3.6E+03
RE1 15 14 Rideal 3.548E+03
RE2 16 15 Rideal 3.548E+03
Dcmlim1 18 15 DQuiet
Vcmlim1 18 51 1.226
Ibias 15 51 1.00E-03
Ios 1 2 0
Vos 1 7 1E-04
Cinv 2 0 1E-22
Cninv 1 0 1E-22

***A1 Noise
VVnoise 501 0 0
RVNoise 501 0 RNoise 4E-05
DVNoise 511 0 DVNoise
VDNoise 511 501 0.1
HVnoise 9 7 Vvnoise 1
VInoise1 502 0 0
RINoise1 502 0 RNoise 1656000
DINoise1 502 0 DINoise1
FINoise1 12 0 VINoise1 1
VInoise2 503 0 0
RINoise2 503 0 RNoise 1656000
DINoise2 503 0 DINoise2
FINoise2 2 0 VINoise2 1

***A1 Common Mode Rejection
Rcm1 +IN 601 RIdeal 100E+06
Rcm2 601 -IN RIdeal 100E+06
Gcmr 0 602 601 0 1.00E-07
Rcmr1 602 603 RIdeal 1E+07
Rcmr2 603 604 RIdeal 31.62
Lcmr 604 0 5.033E-03
Ecmr 10 9 603 0 1.0E+00

***A1 Power Supply Rejection
Epsr1 700 0 98 0 1
Rpsr1 700 701 RIdeal 1.00E+03
Rpsr2 701 702 RIdeal 1E-03
Lpsr1 702 0 7.958E-07
Epsr2 11 10 701 0 1
Epsr3 703 0 51 0 1
Rpsr3 703 704 RIdeal 1.00E+03
Rpsr4 704 705 RIdeal 1E-03
Lpsr2 705 0 3.184e-04
Epsr4 12 11 704 0 1

***A1 First Gain and Slew Rate
GSlew 0 101 17 13 1.00E+00
RSlew 101 0 RIdeal 2.5e+02
DSlew1 101 102 Dzener
DSlew2 0 102 Dzener

***A1 Second Gain with Dominant Pole and Output Voltage Limiting
Gp1 51 201 101 0 3.770E-08
Rp1 201 51 RIdeal 1.061E+13
Cp1 201 51 1.50e-12
Vlim1 97 206 1.55
Dlim1 201 206 DQuiet
Vlim2 207 52 1.45
Dlim2 207 201 DQuiet
Esupref1 97 98 51 0 1
Esupref2 52 51 51 0 1

***A1 Additional Poles
Gp2 0 202 201 51 1.00e-03
Rp2 202 0 RIdeal 1.00e+03
Cp2 202 0 5.30517e-11
Gp3 0 203 202 0 1.00e-03
Rp3 203 0 RIdeal 1.00e+03
Cp3 203 0 3E-11
Gp4 0 204 203 0 1.00e-03
Rp4 204 0 RIdeal 1.00e+03
Cp4 204 0 1.59155e-16
Gp5 0 205 204 0 1.00e-03
Rp5 205 0 RIdeal 1.00e+03
Cp5 205 0 1.592e-16

***A1 Zeros
Gz1 0 301 205 0 1.00e-03
Rz1 301 302 RIdeal 1.00e+03
Lz1 302 0 1.592E-10
Gz2 0 303 301 0 1.00e-03
Rz2 303 304 RIdeal 1.00e+03
Lz2 304 0 1.592e-10
Gz3 0 305 303 0 1.00e-03
Rz3 305 306 RIdeal 1.00e+03
Lz3 306 0 1.592e-10

***A1 Output with Current Limiting
Gbuf 0 401 305 0 1.00e-04
Rbuf 401 0 RIdeal 1.00e+04
Eout 404 0 401 0 1.0E+00
Rout 405 404 RIdeal 2E-01
Lout 406 405 1.0e-19
Cout 406 0 1E-22
Voutmon 406 4 0
Dout1 401 407 DQuiet
Vout1 407 406 -6.27E-01
Dout2 408 401 DQuiet
Vout2 406 408 -6.27E-01
R6 4 CFILT RIdeal 10e3

***Reference Supply Generator
Eref1 98 0 +VS 0 1
Eref2 51 0 -VS 0 1

***Total Supply Current
Iq +VS -VS .0016
Fsup1 803 0 Voutmon 1
Dsup1 +VS 802 DQuiet
DZsup1 803 802 Dzener2
Dsup2 804 -VS DQuiet
DZsup2 804 803 Dzener2
Fsup2 823 0 Voutmon1 1
Dsup3 +VS 822 DQuiet
DZsup3 823 822 Dzener2
Dsup4 824 -VS DQuiet
DZsup4 824 823 Dzener2

****A2 Op Amp (All unique nets are +20)

***A2 Differential Stage
Q3 33 32 34 0 npn
Q4 37 RG 36 0 npn
RC3 98 37 Rideal 3.6E+03
RC4 98 33 Rideal 3.6E+03
RE3 35 34 Rideal 3.548E+03
RE4 36 35 Rideal 3.548E+03
Dcmlim4 38 35 DQuiet
Vcmlim4 38 51 1.226
Ibias1 35 51 1.00E-03
Ios1 CFILT RG 0
Vos1 CFILT 27 1E-04
Cinv1 RG 0 1E-22
Cninv1 CFILT 0 1E-22

***A2 Noise
VVnoise1 521 0 0
RVNoise1 521 0 2.2716E-04
DVNoise1 521 0 DVNoise
HVnoise1 29 27 Vvnoise1 1
VInoise3 522 0 0
RINoise3 522 0 1656000
DINoise3 522 0 DINoise1
FINoise3 32 0 VINoise3 1
VInoise4 523 0 0
RINoise4 523 0 1656000
DINoise4 523 0 DINoise2
FINoise4 RG 0 VINoise4 1

***A2 Common Mode Rejection
Rcm3 CFILT 621 RIdeal 100E+06
Rcm4 621 RG RIdeal 100E+06
Gcmr1 0 622 621 0 1.00E-06
Rcmr3 622 623 RIdeal 1E+06
Rcmr4 623 624 RIdeal 31.62
Lcmr1 624 0 5.033E-03
Ecmr1 30 29 623 0 1.0E+00

***A2 Power Supply Rejection
Epsr5 31 30 701 0 0.1
Epsr7 32 31 704 0 0.1

***A2 First Gain and Slew Rate
GSlew1 0 121 37 33 1.00E+00
RSlew1 121 0 RIdeal 2.5e+02
DSlew3 121 122 Dzener
DSlew4 0 122 Dzener

***A2 Second Gain with Dominant Pole and Output Voltage Limiting
Gp6 51 221 121 0 3.770E-08
Rp6 221 51 RIdeal 1.061E+13
Cp6 221 51 1.50e-12
Vlim3 227 52 1.45
Dlim3 227 221 DQuiet
Vlim4 97 226 1.55
Dlim4 221 226 DQuiet

***A2 Additional Poles
Gp7 0 222 221 51 1.00e-03
Rp7 222 0 RIdeal 1.00e+03
Cp7 222 0 5.30517e-11
Gp8 0 223 222 0 1.00e-03
Rp8 223 0 RIdeal 1.00e+03
Cp8 223 0 3E-11

***A2 Zeros
Gz4 0 321 223 0 1.00e-03
Rz4 321 322 RIdeal 1.00e+03
Lz4 322 0 1.592E-10
Gz5 0 323 321 0 1.00e-03
Rz5 323 324 RIdeal 1.00e+03
Lz5 324 0 1.592e-10
Gz6 0 325 323 0 1.00e-03
Rz6 325 326 RIdeal 1.00e+03
Lz6 326 0 1.592e-10

***A2 Output with Current Limiting
Gbuf1 0 421 325 0 1.00e-04
Rbuf1 421 0 RIdeal 1.00e+04
Eout1 424 0 421 0 1.0E+00
Rout1 425 424 RIdeal 2E-01
Lout1 426 425 1.0e-19
Cout1 426 0 1E-22
Voutmon1 426 OUT 0
Dout3 428 421 DQuiet
Vout3 427 426 -6.27E-01
Dout4 421 427 DQuiet
Vout4 426 428 -6.27E-01

*Models Used
.model Rideal   Res(T_ABS=-273)
.model Rnoise   Res(T_ABS=27)
.model npn      npn(BF=499999)
.model DQuiet   D(IS=1E-18)
.model DZener   D(BV=11.337)
.model DZener2  D(BV=50)
.model DVNoise  D(IS=1E-15 KF=0.05)
.model DINoise1 D(KF=0.0001)
.model DINoise2 D(KF=0.0001)

.ends AD628
